US08791161B2
4-chloro-N-[5-chloro-2-(methylthio)phenyl]-3-methylbenzenesulfonamide
Following General Procedure B, the title compound (205 mg, 59%) was prepared from 5-chloro-2-methylsulfanyl-phenylamine (165 mg, 0.95 mmol) and 4-chloro-3-methyl-benzenesulfonyl chloride (215 mg, 0.95 mmol).

reactant | 5-chloro-2-methylsulfanyl-phenylamine | 0.95 mmol, 165 mg | ClC=1C=CC(=C(C1)N)SC | C7H8ClNS
reactant | 4-chloro-3-methyl-benzenesulfonyl chloride | 0.95 mmol, 215 mg | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 4-chloro-N-[5-chloro-2-(methylthio)phenyl]-3-methylbenzenesulfonamide | 205 mg, 59% | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)Cl)SC)C | C14H13Cl2NO2S2
